US07622466B2
Piperidin-1-yl-[5-(3-pyrrolidin-1-yl-propoxy)-1H-pyrrolo[2,3-b]pyridin-2-yl]-methanone
The title compound was synthesized in analogy to example 1 from lithium 5-(3-pyrrolidin-1-yl-propoxy)-1H-pyrrolo[2,3-b]pyridine-2-carboxylate, O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate, piperidine and N,N-diisopropylethylamine to give the desired product as a light brown solid (32% G).

reactant | lithium 5-(3-pyrrolidin-1-yl-propoxy)-1H-pyrrolo[2,3-b]pyridine-2-carboxylate | N1(CCCC1)CCCOC=1C=C2C(=NC1)NC(=C2)C(=O)[O-].[Li+]
reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
product | Piperidin-1-yl-[5-(3-pyrrolidin-1-yl-propoxy)-1H-pyrrolo[2,3-b]pyridin-2-yl]-methanone | 32% | N1(CCCCC1)C(=O)C1=CC=2C(=NC=C(C2)OCCCN2CCCC2)N1 | C20H28N4O2
